US06949571B2
3-(2-Pyridyl)-5-phenyl-2-(1H)-pyridone
A mixture of 11.0 g of 3-(2-pyridyl)-5-bromo-2-methoxypyridine, 0.9 g of phenylboronic acid, 0.3 g of dichlorobistriphenylphosphine palladium and 2 ml of triethylamine was stirred at 120° C. for 1.5 hours in 30 ml of xylene in nitrogen atomosphere. The mixture was returned to room temperature, diluted with ethyl acetate, washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was incorporated with 47% hydrobromic acid and heated at 70° C. for 1 hour. The reaction solution was ice-cooled, diluted with water, and neutralized with potassium carbonate. The resulting precipitates were collected by filtration, washed with water and ether, and then air-dried, to give 0.5 g of the title compound as a pale yellow powder.

reactant | 3-(2-pyridyl)-5-bromo-2-methoxypyridine | 11.0 g | N1=C(C=CC=C1)C=1C(=NC=C(C1)Br)OC | C11H9BrN2O
reactant | phenylboronic acid | 0.9 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Pyridyl)-5-phenyl-2-(1H)-pyridone | 0.5 g | N1=C(C=CC=C1)C=1C(NC=C(C1)C1=CC=CC=C1)=O | C16H12N2O
